US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-diisopropyl-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide
5-Bromo-1,3-dihydroindol-2-one (100 mg, 0.47 mmol) was condensed with 5-formyl-2,4-diisopropyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide (150 mg) to give 0.15 g (62%) of the title compound as a yellow-orange solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 0.47 mmol, 100 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2,4-diisopropyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide | 150 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C(C)C)C=O)C(C)C)CC | C18H31N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-diisopropyl-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide | 0.15 g, 62% | C(C)N(CCNC(=O)C1=C(NC(=C1C(C)C)C=C1C(NC2=CC=C(C=C12)Br)=O)C(C)C)CC | C26H35BrN4O2
